US06437124B1
To a solution of nonaethylene glycol monomethyl ether (2.0 g. 4.7 mmol) in pyridine (15 mL) at 0° C. was added toluenesulfonyl chloride (1.35 g). After stiring at room temperature overnight, the mixture was cooled to 0° and adjusted to pH 2 by addition of 12N HCl. Water (200 mL) was added and the solution was washed with methylene chloride (3×50 mL). The combined organic layers were washed with brine, dried (magnesium sulfate) and evaporated to provide nonaethylene glycol methyl tosyl ether as a colorless oil (2.7 g); 1H-NMR (DMSO-d6)δ: 7.85 and 7.55 (2d, 4, C6H4), 4.18 (m, 2, CH2OTos), 3.7-3.45 (m 34, 17 CH2), 3.2 (s, 3, OCH3) 2.40 (s, 3, CH3).

reactant | nonaethylene glycol monomethyl ether | 4.7 mmol, 2.0 g | COCCOCCOCCOCCOCCOCCOCCOCCOCCO | C19H40O10
reactant | toluenesulfonyl chloride | 1.35 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 12N | Cl | ClH
reactant | Water | 200 mL | O | H2O
reactant | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | nonaethylene glycol methyl tosyl ether | 2.7 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOCCOCCOCCOCCOCCOCCOCCOC | C26H46O12S
